US09353066B2
A mixture of methyl trans-4-[1-(4-bromophenyl)-1-hydroxyethyl]cyclohexanecarboxylate (250 mg, 0.733 mmol), bis(pinacolato)diboron (214 mg, 0.843 mmol), X-Phos (34.9 mg, 0.073 mmol), and Pd2(dba)3 (33.5 mg, 0.037 mmol) was degassed by sparging with Ar (5 minutes) and then dioxane (5 mL) was added. The reaction mixture was heated to 90° C. for 14 hours, then cooled to room temperature, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate/hexanes) gave methyl trans-4-{1-hydroxy-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethyl}cyclohexanecarboxylate as a colorless oil. MS ESI calcd. for C22H31BO4 [M+H−H2O]+371, found 371.

reactant | methyl trans-4-[1-(4-bromophenyl)-1-hydroxyethyl]cyclohexanecarboxylate | 0.733 mmol, 250 mg | BrC1=CC=C(C=C1)C(C)(O)[C@@H]1CC[C@H](CC1)C(=O)OC | C16H21BrO3
reactant | bis(pinacolato)diboron | 0.843 mmol, 214 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | X-Phos | 0.073 mmol, 34.9 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
catalyst | Pd2(dba)3 | 0.037 mmol, 33.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl trans-4-{1-hydroxy-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethyl}cyclohexanecarboxylate | OC(C)(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)[C@@H]1CC[C@H](CC1)C(=O)OC | C22H33BO5
